* L:\My Drive\Lectures\Postgraduated\Advanced Analog\Slides\SCF\Quarto\Simulation of SC Circuits\Simulations\LTSpice\LP Passive Filter\LP_RC_log.asc
* Generated by LTspice 24.1.9 for Windows.
Vin in 0 AC 1
C2 0 outct {C2}
R1 outct in {R}
X§U2 in 1 0 SCG C={C1} fs={fs} D=0.5
X§U1 outsc 1 0 SCG C={C2} fs={fs} D=0.5
.param fs=100k fc=1k C2=1p C1=2*pi*fc/fs*C2 R=1/(2*pi*C2*fc)
.ac dec 100 10 100k
.lib analog.lib
.backanno
.end
